US07456175B2
2-(4-Cyclopentyl-piperazin-1-yl)-isonicotinonitrile
A mixture of 2 g (14 mmol) 2-chloro-4-cyanopyridine and 2.34 g (15 mmol) 1-cyclopentylpiperazine in 5 ml DMF was heated to 80° C. for 16 h. The mixture was evaporated under reduced pressure and the residue was treated with 100 ml 1M NaHCO3 aq. and extracted with two times 100 ml ethyl acetate. The combined organic phases were dried with MgSO4 and evaporated under reduced pressure to yield 3.4 g (92%) of the title compound as grey solid. (m/e): 257.3 (MH+; 100%).

reactant | 2-chloro-4-cyanopyridine | 14 mmol, 2 g | ClC1=NC=CC(=C1)C#N | C6H3ClN2
reactant | 1-cyclopentylpiperazine | 15 mmol, 2.34 g | C1(CCCC1)N1CCNCC1 | C9H18N2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 2-(4-Cyclopentyl-piperazin-1-yl)-isonicotinonitrile | 3.4 g, 92% | C1(CCCC1)N1CCN(CC1)C=1C=C(C#N)C=CN1 | C15H20N4
